US06417200B1
C) methyl 3-cyano-4-(bromomethyl)benzoate
A mixture of methyl 3-cyano-4-methylbenzoate (1.78 g, 9.79 mmol) and NBS (1.92 g, 10.8 mmol) in CCl4 (150 mL) was irradiated with a 150W tungsten lamp at 50° C. for 2 h. The reaction was cooled, filtered, and concentrated. The residue was chromatographed (250 g silica, 10% EtOAc/hexanes to 15% EtOAc/hexanes) to give the title compound (1.20 g, 48%); IR(CHCl3: 1291, 1302, 1439, 1728 cm−1; NMR(300 MHz, CDCl3): 4.01 (s, 3H); 4.67 (s, 3H); 7.66 (d, 1H, J=8.1 Hz); 8.24 (d, 1H, J=8.7 Hz); 8.34 (s, 1H); MS(FD): 253.0.

reactant | methyl 3-cyano-4-methylbenzoate | 9.79 mmol, 1.78 g | C(#N)C=1C=C(C(=O)OC)C=CC1C | C10H9NO2
reactant | NBS | 10.8 mmol, 1.92 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | methyl 3-cyano-4-(bromomethyl)benzoate | 1.20 g, 48% | C(#N)C=1C=C(C(=O)OC)C=CC1CBr | C10H8BrNO2
